US05521163
Preparation of 3,5-di-O-benzyl-2-deoxy-4-O-methane-sulphonyl-L-threo-pentose dibenzyl dithioacetal
To a solution of 3,5-di-O-benzyl-2-deoxy-L-threo-pentose dibenzyl dithioacetal (61.4 g, 113 mmol) in dry pyridine (700 ml) was added methanesulphonyl chloride (19.4 g, 169 mmol) in dry pyridine (200 ml) dropwise, with stirring, at 0° C. The temperature of the mixture was raised to room temperature and stirring continued for 18 hours. The pyridine was then removed in vacuo and the residue dissolved in dichloromethane. The dichloromethane extracts were then successively washed with 2M hydrochloric acid, 1M sodium carbonate and water, dried (magnesium sulphate) and evaporated to give the title product as a thick viscous syrup. A sample of this was crystallised from hexane-ethyl acetate to give the title product as white crystals, m.p 82°-83° C.

reactant | 3,5-di-O-benzyl-2-deoxy-L-threo-pentose dibenzyl dithioacetal | 113 mmol, 61.4 g | C(C1=CC=CC=C1)SC(C[C@H](OCC1=CC=CC=C1)[C@@H](O)COCC1=CC=CC=C1)SCC1=CC=CC=C1 | C33H36O3S2
reactant | methanesulphonyl chloride | 169 mmol, 19.4 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 700 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-di-O-benzyl-2-deoxy-4-O-methane-sulphonyl-L-threo-pentose dibenzyl dithioacetal | C(C1=CC=CC=C1)SC(C[C@H](OCC1=CC=CC=C1)[C@@H](OS(=O)(=O)C)COCC1=CC=CC=C1)SCC1=CC=CC=C1 | C34H38O5S3
